US06921763B2
A suspension of trans-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.100 g, 0.227 mmol) in ethylene glycol dimethyl ether (8 mL) was treated with N2-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methyl-1H-2-indolecarboxamide (0.097 g, 0.238 mmol), tetrakis(triphenylphosphine)palladium (0.016 g, 0.014 mmol), and a solution of sodium carbonate (0.057 g, 0.538 mmol) in water (4 mL). The reaction mixture was stirred for 21.5 h at 80° C. The precipitate was filtered, and the organic layer was evaporated under reduced pressure. Dichloromethane (15 mL) was added and the layers were partitioned. The aqueous layer was extracted with dichloromethane (200 mL). The combined organic layers were dried over magnesium sulfate, filtered, and evaporated under reduced pressure. The crude material was purified by flash chromatography on silica gel using a 10% methanol in dichloromethane to 50% methanol in dichloromethane step gradient on Sq 16× ISCO CombiFlash. The column afforded 0.083 g (68%) of trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide. 1H NMR (d6-DMSO) δ 9.4316 (s, 1H), 8.2427 (s, 1H), 8.1207-8.1003 (d, 1H, J=8.16 Hz), 7.7173-7.6974 (d, 1H, J=7.96 Hz), 7.5979-7.5769 (d, 1H, J=8.4 Hz), 7.3507-7.2758 (m, 4H), 7.1695-7.1321 (t, 1H), 4.6893-4.6324 (m, 1H), 4.0400 (s, 3H), 3.9571 (s, 3H), 2.5 (m, 3H), 2.4055-2.3279 (m, 5H), 2.1606 (s, 3H), 2.1094-1.9367 (m, 6H), 1.5214-1.4624 (m, 2H); LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 μm particle size, 33×4.6 mm; 70% 50 mM ammonium Acetate in Water to 95% Acetonitrile over 6 min, 0.8 to 0.5 mL/min) Rt 2.12 min (100%), M+ 594.3.

reactant | trans-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.227 mmol, 0.100 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | N2-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methyl-1H-2-indolecarboxamide | 0.238 mmol, 0.097 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)C=1N(C2=CC=CC=C2C1)C | C23H27BN2O4
reactant | sodium carbonate | 0.538 mmol, 0.057 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 8 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.014 mmol, 0.016 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide | 0.083 g, 68% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C33H39N9O2
